US06043254
3.4 3-{(Z)-1-[(Quinolin-6-yl)amino]-1-phenylmethylidene}-2-indolinone
Prepared from 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone and 3 equivalents of 6-amino-quinoline in DMF followed by treatment with 1N sodium hydroxide solution in MeOH.

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 6-amino-quinoline | 3 equivalents | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{(Z)-1-[(Quinolin-6-yl)amino]-1-phenylmethylidene}-2-indolinone | N1=CC=CC2=CC(=CC=C12)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H17N3O
